US07141583B2
(5R)-3-(4-(1-Formyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one
(5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride (450 mg, 1.19 mM) and triethylamine (156 mg, 1.56 mM) were heated under reflux for 48 hours in ethyl formate (20 ml). The reaction mixture was diluted with ethyl acetate (30 ml) and washed with water and brine. Drying (sodium sulfate) and evaporation gave a gum which crystallised on trituration with diethyl ether to give the desired product (358 mg).

reactant | (5R)-3-(4-(1,2,5,6-Tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)-oxazolidin-2-one hydrochloride | 1.19 mM, 450 mg | Cl.N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F
reactant | triethylamine | 1.56 mM, 156 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl formate | 20 ml | C(=O)OCC | C3H6O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (5R)-3-(4-(1-Formyl-1,2,5,6-tetrahydropyridin-4-yl)-3-fluorophenyl)-5-(1,2,3-triazol-1-ylmethyl)oxazolidin-2-one | 358 mg | C(=O)N1CC=C(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN1N=NC=C1)=O)F | C18H18FN5O3
